US07423157B2
5-Amino-2-(1-[4-methoxyphenylcarbonylmethyl]benzimidazol-2-yl)-pyrazole
A suspension of 5-amino-2-(1H-benzimidazol-2-yl)pyrazole (0.10 g, 0.5 mmol), p-methoxyphenacyl bromide (0.204 g, 0.9 mmol) and dry potassium carbonate (0.173 g, 1.25 mmol) is stirred at room temperature for 16 hours. The mixture is diluted with water and the product extracted with ethyl acetate. The product is purified by chromatography on silicagel. M.p. 136-140° C., 1H-NMR (400 MHz, d6-DMSO): 8.04 (d, 2H); 7.58 (m, 2H); 7.28 (m, 3H); 7.11 (d, 2H); 6.84 (s, 2H); 6.26 (s, 2H); 5.39 (d, 1H); 3.87 (s, 3H).

reactant | 5-amino-2-(1H-benzimidazol-2-yl)pyrazole | 0.5 mmol, 0.10 g | NC=1C=CN(N1)C1=NC2=C(N1)C=CC=C2 | C10H9N5
reactant | p-methoxyphenacyl bromide | 0.9 mmol, 0.204 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | potassium carbonate | 1.25 mmol, 0.173 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-Amino-2-(1-[4-methoxyphenylcarbonylmethyl]benzimidazol-2-yl)-pyrazole | NC=1C=CN(N1)C1=NC2=C(N1CC(=O)C1=CC=C(C=C1)OC)C=CC=C2 | C19H17N5O2
